US07396844B1
Synthesis of N-[2-(3-cyanophenoxy)ethyl]-4-[(pyridine-4-yl)amino]benzamide
180 mg (0.743 mmol) of ethyl 4-[(pyridine-4-yl)amino]benzoate was dissolved in 5 ml of concentrated hydrochloric acid, and the solution was stirred at 70° C. for 15 hours. The solvent was evaporated, and the residue was dissolved in 5 ml of dichloromethane. 0.23 ml (1.64 mmol) of triethylamine, 156 mg (0.82 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, 208 mg (0.82 mmol) of 1-hydroxybenzotriazole and 199 mg (0.82 mmol) of 3-(2-aminoethoxy)benzonitrile hydrobromide were added to the solution, and they were stirred for 16 hours. The reaction liquid was diluted with water. After the extraction with ethyl acetate, the organic layer was successively washed with water, 1 N sodium hydroxide and saturated aqueous NaCl solution, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by the silica gel column chromatography to obtain the title compound.

reactant | ethyl 4-[(pyridine-4-yl)amino]benzoate | 0.743 mmol, 180 mg | N1=CC=C(C=C1)NC1=CC=C(C(=O)OCC)C=C1 | C14H14N2O2
reactant | triethylamine | 1.64 mmol, 0.23 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.82 mmol, 156 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.82 mmol, 208 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-(2-aminoethoxy)benzonitrile hydrobromide | 0.82 mmol, 199 mg | Br.NCCOC=1C=C(C#N)C=CC1
solvent | hydrochloric acid | 5 ml | Cl | ClH
solvent | water | O | H2O
product | N-[2-(3-cyanophenoxy)ethyl]-4-[(pyridine-4-yl)amino]benzamide | C(#N)C=1C=C(OCCNC(C2=CC=C(C=C2)NC2=CC=NC=C2)=O)C=CC1 | C21H18N4O2
